US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(3 -dimethylamino-propyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one
The title compound, MS: m/e=571.1 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one and 3-dimethylamino-1-propyl chloride.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CNC(N3C3=C(C=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | 3-dimethylamino-1-propyl chloride | CN(CCCCl)C | C5H12ClN
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(3 -dimethylamino-propyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CN(C(N3C3=C(C=CC=C3)C)=O)CCCN(C)C)CC2)C=C(C1)C(F)(F)F)(F)F | C28H32F6N4O2
